US04877881
Benzaldehyde oxime (20.0 g, 0.165 mole) is dissolved in DMF (250 mL) and cooled to 4° C. in an ice bath. N-chlorosuccinimide (33.1 g, 0.248 mole) is added to the reaction mixture, and the mixture is stirred for one hour. Isopropenyl acetate (41.3 g, 0.41 mole) and triethyl amine (24.8 g, 0.247 mole) are added via an equal-pressure addition funnel to the solution of benzaldehyde hydroxamic chloride. The ice bath is removed and the mixture is stirred for 24 hours. The mixture is then taken up into ethyl acetate (1 L) and washed with water (2×1 L). The organic layer is dried over sodium sulfate and evaporated to give a residue. Flash chromatography (hexane/ethyl acetate 9:1) affords 12.0 g of 3-phenyl-5-methylisoxazole as a yellow oil.

reactant | Benzaldehyde oxime | 0.165 mole, 20.0 g | C(C1=CC=CC=C1)=NO | C7H7NO
reactant | N-chlorosuccinimide | 0.248 mole, 33.1 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Isopropenyl acetate | 0.41 mole, 41.3 g | C(C)(=O)OC(=C)C | C5H8O2
reactant | triethyl amine | 0.247 mole, 24.8 g | C(C)N(CC)CC | C6H15N
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-phenyl-5-methylisoxazole | 12.0 g | C1(=CC=CC=C1)C1=NOC(=C1)C | C10H9NO
